US06294580B1
4-tert-butoxycarbonyl-piperazine-1-carbothioic acid amide
The title compound (1.5 g) was prepared from 3.01 g (16.91 mmol) of thiocarbonyldiimidazole and 3.0 g (16.12 mmol) of 1-tert-butoxycarbonyl-piperazine according to the method of Intermediate 53 followed by purification via trituration with diethyl ether: low resolution MS (ES) m/e 246 (MH+).

reactant | thiocarbonyldiimidazole | 16.91 mmol, 3.01 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 1-tert-butoxycarbonyl-piperazine | 16.12 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-tert-butoxycarbonyl-piperazine-1-carbothioic acid amide | 1.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(N)=S | C10H19N3O2S
